US06139924
The title compound was prepared essentially as described in Example 1. R-4-fluoro-1-methanesulfonoxydecane was prepared by copper catalyzed addition of vinyl magnesium bromide to epichlorohydrin to yield 5-chloro-4-hydroxypent-1-ene which was treated with base to give the corresponding epoxide. The epoxide is then ring opened by the addition of propyl magnesium bromide to yield 4-hydroxy-dec-1-ene. This hydroxy compound is converted to 4-fluoro-dec-1-ene as described in Example 1, followed by treatment with borane/tetrahydrofuran and hydrogen peroxide to give 4-fluoro-decanol. This alcohol was treated with methane sulfonyl chloride in the presence of triethylamine to yield the desired intermediate R-4-fluoro-1-methylsulfonoxy decane.

reactant | 4-fluoro-dec-1-ene | FC(CC=C)CCCCCC | C10H19F
reactant | borane tetrahydrofuran | B.O1CCCC1
reactant | hydrogen peroxide | OO | H2O2
product | 4-fluoro-decanol | FC(CCCO)CCCCCC | C10H21FO
